US07897631B2
tert-butyl 2-amino-4-(hept-6-ynyl)-1H-imidazole-1-carboxylate (0.125 g, 0.449 mmol) was reacted with N-(2-azidoethyl)-4-heptylbenzamide (0.129 g, 0.449 mmol) following the general click procedure to give tert-butyl 2-amino-4-(5-(1-(2-(4-heptylbenzamido)ethyl)-1H-1,2,3-triazol-4-yl)pentyl)-1H-imidazole-1-carboxylate 1H NMR (400 MHz, CDCl3) δ 7.78 (s, 1H), δ 7.65 (d, 2H), δ 7.27 (s, 1H), δ 7.09 (d, 2H), δ 6.39 (s, 1H), δ 6.22 (s, 2H), δ 4.47 (s, 2H), δ 3.81 (s, 2H), δ 3.96 (s, 4H), δ 2.20 (s, 2H), δ 2.05 (s, 2H), 1.48 (m, 12H), δ 1.17 (m, 8H), δ 0.77 (t, 3H); 13C NMR (100 MHz, CDCl3) δ 168.3, 149.6, 148.2, 147.1, 138.6, 131.5, 128.6, 127.4, 122.1, 106.4, 84.8, 67.1, 49.4, 40.2, 37.9, 36.9, 31.9, 31.3, 31.1, 29.8, 28.4, 29.3, 28.9, 28.3, 28.1, 28.0, 25.5, 22.8, 14.3 ppm; HRMS (ESI) calcd for C31H47N7O3 (M+) 565.3704. found 656.3737, which was subsequently deprotected to give N-(2-(4-(5-(2-amino-1H-imidazol-4-yl)pentyl)-1H-1,2,3-triazol-1-yl)ethyl)-4-heptylbenzamide hydrochloride (0.194 g, 86% yield). 1H NMR (300 MHz, CD3OD) δ 8.25 (s, 1H), δ 7.71 (d, 2H), δ 7.24 (d, 2H), δ 6.45 (s, 1H), δ 4.74 (s, 2H), 3.90 (s, 2H), δ 2.63 (s, 2H), δ 2.61 (t, 2H), δ 2.41 (S, 2H), δ 1.58 (m, 6H), δ 1.26 (m, 10H), δ 0.85 (t, 3H) ppm; 13C NMR (100 MHz, CD3OD) δ 169.2, 150.2, 147.4, 131.2, 128.5, 127.6, 127.3, 108.4, 51.4, 39.6, 36.5, 35.6, 31.8, 331.3, 29.1, 29.1, 28.3, 28.0, 27.7, 24.1, 22.6, 13.4, 13.3 ppm; HRMS (ESI) calcd for C26H39N7O (M+) 465.3216. found 465.3207.

reactant | tert-butyl 2-amino-4-(hept-6-ynyl)-1H-imidazole-1-carboxylate | 0.449 mmol, 0.125 g | NC=1N(C=C(N1)CCCCCC#C)C(=O)OC(C)(C)C | C15H23N3O2
reactant | N-(2-azidoethyl)-4-heptylbenzamide | 0.449 mmol, 0.129 g | N(=[N+]=[N-])CCNC(C1=CC=C(C=C1)CCCCCCC)=O | C16H24N4O
product | tert-butyl 2-amino-4-(5-(1-(2-(4-heptylbenzamido)ethyl)-1H-1,2,3-triazol-4-yl)pentyl)-1H-imidazole-1-carboxylate | NC=1N(C=C(N1)CCCCCC=1N=NN(C1)CCNC(C1=CC=C(C=C1)CCCCCCC)=O)C(=O)OC(C)(C)C | C31H47N7O3
